US08609656B2
Preparation of [9-(4-nitrophenyl)-9H-purin-6-yl]amine
In 100 ml of dimethyl sulfoxide, 4.05 g (30.0 mmol) of adenine was dissolved, and 3.5 g (31.0 mmol) of potassium tert-butoxide and 5.0 g (35.0 mmol) of 4-fluoronitrobenzene were added thereto, and the mixture solution was stirred at 80° C. for three hours. The solution was diluted with 200 mL of water and the precipitate formed was collected by filtration, washed with 100 mL of water and 30 mL of methanol in the order named and vacuum dried to obtain 7.2 g (84%) of a target product as a yellow solid.

reactant | adenine | 30.0 mmol, 4.05 g | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | potassium tert-butoxide | 31.0 mmol, 3.5 g | CC(C)([O-])C.[K+]
reactant | 4-fluoronitrobenzene | 35.0 mmol, 5.0 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | 200 mL | O | H2O
product | [9-(4-nitrophenyl)-9H-purin-6-yl]amine | 7.2 g, 84% | [N+](=O)([O-])C1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)N | C11H8N6O2
